US05872118
f) Preparation of 2-(6-Fluoro-3-oxo-1-indanyl)acetamide
A solution of 2-(6-fluoro-3-oxo-1-indanyl)acetyl chloride (prepared from 0.024 mol of 2-(6-fluoro-3-oxo-1-indanyl)acetic acid) in dichloromethane (150 ml) was cooled to 0C and stirred rapidly while 50 ml of ammonium hydroxide, 28-30%, was added. The resulting mixture was allowed to warm to room temperature and stirring was continued for 18 hr. The volatiles from this mixture were removed by spin evaporation in vacuo and the residue was dissolved in dichloromethane (250 ml) and washed with water (3×50 ml). The dichloromethane phase was then slurried with Silica Gel 60 and the volatiles were removed by spin evaporation in vacuo. This silica was then applied to a column of Silica Gel 60 (51×400 mm) wet with dichloromethane and the product was removed by elution with methanol:dichloromethane (3:97) to give, after recrystallization from methanol, 2.4 g (48%) of 2-(6-fluoro-3-oxo-1-indanyl)acetamide as a yellow solid: m.p., 150°-152° C.;

reactant | 2-(6-fluoro-3-oxo-1-indanyl)acetyl chloride | 0.024 mol | FC1=CC=C2C(CC(C2=C1)CC(=O)Cl)=O | C11H8ClFO2
reactant | ammonium hydroxide | 50 ml | [OH-].[NH4+]
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 2-(6-Fluoro-3-oxo-1-indanyl)acetamide | FC1=CC=C2C(CC(C2=C1)CC(=O)N)=O | C11H10FNO2
